US07119201B2
2-(4-(4-Methoxyphenoxy)phenyl)-4-hydroxyoxazole (3.76 g, 13.3 mmol) in methylene chloride at 0° C. was treated with 2,6-lutidine (4.28 g, 39.9 mmol) followed by triflic anhydride (7.5 g, 26.6 mmol). After 2 hour silica gel was added to the reaction mixture and the solvents were removed in vacuo. The product absorbed on the silica gel was chromatographed yielding 4.28 g of 2-(4-(4-methoxyphenoxy)phenyl)-4-trifluoromethanesulfonyloxyoxazole. GC-MS (m/z, EI): 415 [M]+.

reactant | 2-(4-(4-Methoxyphenoxy)phenyl)-4-hydroxyoxazole | 13.3 mmol, 3.76 g | COC1=CC=C(OC2=CC=C(C=C2)C=2OC=C(N2)O)C=C1 | C16H13NO4
reactant | 2,6-lutidine | 39.9 mmol, 4.28 g | N1=C(C=CC=C1C)C | C7H9N
reactant | triflic anhydride | 26.6 mmol, 7.5 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-methoxyphenoxy)phenyl)-4-trifluoromethanesulfonyloxyoxazole | 4.28 g | COC1=CC=C(OC2=CC=C(C=C2)C=2OC=C(N2)OS(=O)(=O)C(F)(F)F)C=C1 | C17H12F3NO6S
